* Created in LTspice Version XVII                               *
*                                            					*
* GaN Systems Inc. Power Transistors                            *
* LTSpice Library for GaN Transistors                           *
* Version 4.1                                                   *
*                                                               *
*****************************************************************
*****************************************************************
*                                                               *
* Models provided by GaN Systems Inc. are not warranted by      *
* GaN Systems Inc. as                                           *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    *
* typical device.                                               *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. GaN Systems Inc. therefore   *
* does not assume any liability arising from their use.         *
* GaN Systems Inc. reserves the right to change models without  *
* prior notice.                                                 *
*                                                               *
* This library contains models of the following GaN Systems     *
* Inc. transistors:                                             *
*                                                               *
*   GS66508B                                                    *
*****************************************************************
*Level 1. Optimized for simulation speed.
*$
*$
.subckt GaN_LTspice_GS66508B_L1V4P1 gatein drainin sourcein source_S
*
*
.param rTC=-0.004  gan_res={44.8e-3}		metal_res={3.2e-3}   gtc=2.84 sh_s = 0.05263   sh_d = 0.94376
.param  cur=.099   x0_0=1.1	  x0_1=1.1  x0_2=1.0  thr = 1.61  itc=0.391 atc=90.8
*
*
rd drainin drain { sh_d * (metal_res*(1-1*rTc*(Temp-25)) + gan_res*PWR((Temp+273)/298,gtc)) }
rs sourcein source { sh_s * (metal_res*(1-1*rTc*(Temp-25)) + gan_res*PWR((Temp+273)/298,gtc)) }
RSS source_S source {0.001}
rg gatein gate {1.0}
*
*
Rcsdconv drain source {4000Meg}
Rcgsconv gate source {4000Meg}
Rcgdconv gate drain {4000Meg}
*
*
bswitch drain2 source2 I = (if(v(drain2,source2)>0,
+   (cur*(-(Temp-25)*itc+atc)*log(1.0+exp(26*(v(gate,source2)-thr)))*
+	v(drain2,source2)/(1 + max(x0_0+x0_1*(v(gate,source2)+x0_2),0.2)*v(drain2,source2))),

+   (-cur*(-(Temp-25)*itc+atc)*log(1.0+exp(26*(v(gate,drain2)-thr)))*
+	v(source2, drain2)/(1 + max(x0_0+x0_1*(v(gate,drain2)+x0_2),0.2)*v(source2,drain2)))))
*
*
R_drain2 drain2 drain {(1e-4)}
R_source2 source2 source {(1e-4)}
*
*
C_GS	 gate source  	{228.3e-12}
C_GS1 gate source Q = ( -0.9431e-12*(1-1./(1+exp(0.0177*(-v(drain, source)+300.03))))
+						  -0.4182e-10*(1-1./(1+exp(0.0700*(-v(drain, source)+33.3))))
+						 -0.5657e-10*(1-1./(1+exp(0.277*(-v(drain, source)+1.1))))
+						-(-0.435*90.48e-12*(1-1./(1+exp(0.06*(-v(drain, source)+1.1))))
+                        -0.435*0.54e-10*(1-1./(1+exp(0.9*(-v(drain, source)+2.1))))))*x
C_GS2 gate source   Q = 0.464*2.23e-010*log(1+exp(6.5*(x-1.45)))
*
*
C_GD   gate drain  	{0.6e-012}
C_GD1  gate drain Q = 0.444*4.6e-10*log(1+exp(0.277*(x+1.1))) + 0.444*13.2e-10*log(1+exp(0.070*(x+33.3)))+ 0.444*1.2e-10*log(1+exp(0.0177*(x+300.03)))
*
*
C_SD	 source drain  	{0.8e-010}
C_SD1	source drain Q =  0.444*4.4e-9*log(1+exp(.15*(x+68))) + 0.444*6.56e-9*log(1+exp(.03*(x+180))) 
*
*
.ends
*$